US07847101B2
Preparation 1: Synthesis of 2-Amino-4-fluorobenzenethiol
To a solution of 2-chloro-5-fluoronitrobenzene (1.81 g, 10.31 mmol) dissolved in 30 mL of deionized water at room temperature was added sodium sulfide nonahydrate (9.90 g, 41.24 mmol) in a single portion. The resulting solution was heated to reflux and stirred under nitrogen for 32 hours. The resulting light yellow solution was then cooled to room temperature and was washed with 5×50 mL of ethyl acetate. The organic phase was dried over anhydrous magnesium sulfate, filtered, and evaporated to yield a yellow oil. The crude material was purified by flash chromatography eluting with CH2Cl2:MeOH=10:1 to yield 0.36 g (25%) of the title compound. MS (m/z, ES+): 144.0 (M+1, 100%); IR (KBr): 3430, 3340, 1615, 1573, 1482, 1281, 1248, 1172, 1124, 1044, 975, 840, 792 cm−1; 1H NMR (300 MHz, ppm, DMSO-d6) δ: 6.89 (dt, 1H), 6.50 (dd, 1H), 6.21 (dt, 1H), 5.80 (br s, 2H).

reactant | 2-chloro-5-fluoronitrobenzene | 10.31 mmol, 1.81 g | ClC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3ClFNO2
reactant | sodium sulfide nonahydrate | 41.24 mmol, 9.90 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
solvent | water | 30 mL | O | H2O
product | 2-Amino-4-fluorobenzenethiol | 0.36 g, 25% | NC1=C(C=CC(=C1)F)S | C6H6FNS
